US08957064B2
Step 1: 6-(2-fluorophenyl)-imidazo[1,2-a]pyrimidine-5,7-diol
5 g (27.5 mmol) 1H-Imidazol-2-ylamine sulfate are dissolved in 31.7 mL DMF. 7 g (27.5 mmol) diethyl (2-fluorophenyl)malonate are added. After dropwise addition of 12.3 mL (82.6 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene the reaction mixture is stirred at 100° C. over night. The DMF is evaporated and the darkbrown oily residue treated with 150 mL water (complete dissolution). 2M HCl (60 mL) is added at room temperature until a pH of 1. After stirring for 1 h at ice bath cooling the formed crystals are collected by filtration to yield the product (3.43 g=48.3%), which is used without further purification. Another crop of 0.41 g (6.1%) is obtained by evaporating the solvent, treating the oily residue with water and 2M HCl. After stirring for five hours the crystals are collected and washed with water.

reactant | 1H-Imidazol-2-ylamine sulfate | 27.5 mmol, 5 g | S(=O)(=O)(O)O.N1C(=NC=C1)N
reactant | diethyl (2-fluorophenyl)malonate | 27.5 mmol, 7 g | FC1=C(C=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H15FO4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 82.6 mmol, 12.3 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | DMF | 31.7 mL | CN(C)C=O | C3H7NO
product | 6-(2-fluorophenyl)-imidazo[1,2-a]pyrimidine-5,7-diol | FC1=C(C=CC=C1)C=1C(=NC=2N(C1O)C=CN2)O | C12H8FN3O2
